US04150052
Sodium bicarbonate (2.5 g.) and 4-aminobut-2-yn-1-ol hydrochloride (2.5 g.) were dissolved in water (60 ml.) and a solution of p-menth-3-oyl chloride in ether (100 ml.) added. The mixture was stirred vigorously for two hours and the ether layer separated and dried over MgSO4. Evaporation of the ether gave N-(4-hydroxybut-2-ynyl)-p-menthane-3-carboxamide as a very viscous liquid: b.p. 180°/0.1 mm.

reactant | Sodium bicarbonate | 2.5 g | C([O-])(O)=O.[Na+]
reactant | 4-aminobut-2-yn-1-ol hydrochloride | 2.5 g | Cl.NCC#CCO
reactant | p-menth-3-oyl chloride | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
solvent | water | 60 ml | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(4-hydroxybut-2-ynyl)-p-menthane-3-carboxamide | OCC#CCNC(=O)C1CC(CCC1C(C)C)C | C15H25NO2
